US08349849B2
[1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-5-trifluoromethyl-quinolin-2-yl]-2-(di-tert-butoxy-phosphoryloxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester Enantiomer 1 was synthesized as per [1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-quinolin-2-yl]-2-(di-tert-butoxy-phosphoryloxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester Enantiomer 1 (Example 29) in 68% yield using {1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-5-trifluoromethyl-quinolin-2-yl]-2-hydroxy-1-methyl-ethyl}-carbamic acid tert-butyl ester Enantiomer 1 as starting material.

reactant | [1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-quinolin-2-yl]-2-(di-tert-butoxy-phosphoryloxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(COP(=O)(OC(C)(C)C)OC(C)(C)C)(C)C1=NC2=CC=C(C=C2C=C1)O[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C35H57N2O7P
reactant | {1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-5-trifluoromethyl-quinolin-2-yl]-2-hydroxy-1-methyl-ethyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(CO)(C)C1=NC2=CC=C(C(=C2C=C1)C(F)(F)F)O[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C28H39F3N2O4
product | [1-[6-(trans-4-tert-Butyl-cyclohexyloxy)-5-trifluoromethyl-quinolin-2-yl]-2-(di-tert-butoxy-phosphoryloxy)-1-methyl-ethyl]-carbamic acid tert-butyl ester | 68% yield | C(C)(C)(C)OC(NC(COP(=O)(OC(C)(C)C)OC(C)(C)C)(C)C1=NC2=CC=C(C(=C2C=C1)C(F)(F)F)O[C@@H]1CC[C@H](CC1)C(C)(C)C)=O | C36H56F3N2O7P
